US07253164B2
N-Hydroxy-2-[1-(3-methyl-butyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetamide
The crude [1-(3-methyl-butyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester obtained in the previous step is dissolved in 0.5 mL of anhydrous THF. Freshly prepared NH2OH (0.77 M in MeOH) (0.44 mL) (also containing 0.77M NaOH) is then added and the mixture is stirred at room temperature for 12 hours. The final product N-hydroxy-2-[1-(3-methyl-butyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetamide is obtained by preparative LC/MS using 1 to 99% ACN as gradient. 1H NMR (400 MHz, MeOD): δ 7.29 (t, 1H), 7.20 (d, 1H), 7.11 (d, 1H), 7.04 (t, 1H), 3.97 (m, 2H), 3.02-2.89 (m, 2H), 2.77-2.65 (m, 2H), 2.17 (dd, 1H), 1.65 (m, 1H), 1.50 (m, 2H), 0.97 (2d, 6H). MS: (ES+): 291.3 [M+1].

reactant | [1-(3-methyl-butyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester | COC(CC1C(N(C2=CC=CC=C2C1)CCC(C)C)=O)=O | C17H23NO3
reactant | NH2OH | 0.77 M, 0.44 mL | NO | H3NO
reactant | NaOH | 0.77M | [OH-].[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-hydroxy-2-[1-(3-methyl-butyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetamide | ONC(CC1C(N(C2=CC=CC=C2C1)CCC(C)C)=O)=O | C16H22N2O3
